US08957068B2
A solution of 2,4-dichloro-5-fluoropyrimidine (2 g, 11.98 mmol) in acetonitrile (10 mL) was cooled to −40° C., avoiding freezing. To this solution was added diisopropylamine (3.82 mL, 21.88 mmol) followed by 1-amino-2-methylpropan-2-ol (1.5 g, 16.83 mmol). The reaction mixture was removed from the cooling bath, warmed to room temperature and allowed to stir overnight (˜18 hours). Solvents were removed in vacuo and the residue was taken up in a minimum of dichloromethane (˜1.5-2 mL) and diluted with heptane until slightly cloudy. This mixture was loaded onto a 40 gram BioRad silica gel cartridge. Purification by flash chromatography (Analogix System, 20 min gradient, 0-25% methanol/dichloromethane, 40 mL/min.) provided 1-(2-chloro-5-fluoropyrimidin-4-ylamino)-2-methylpropan-2-ol as a white solid. LCMS m/z 220.1, 221.8 (M+H)+, Rt 0.49 min.

reactant | 2,4-dichloro-5-fluoropyrimidine | 11.98 mmol, 2 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | diisopropylamine | 21.88 mmol, 3.82 mL | C(C)(C)NC(C)C | C6H15N
reactant | 1-amino-2-methylpropan-2-ol | 16.83 mmol, 1.5 g | NCC(C)(O)C | C4H11NO
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 1-(2-chloro-5-fluoropyrimidin-4-ylamino)-2-methylpropan-2-ol | ClC1=NC=C(C(=N1)NCC(C)(O)C)F | C8H11ClFN3O
